US08071592B2
7-chloro-6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one dihydrochloride
1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone (68 mg, 0.214 mmol) and 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde (for a synthesis see WO2003064421, Example 15(c)) (50 mg, 0.236 mmol) were combined in anhydrous DCM (5 mL) and anhydrous MeOH (1 ml) with a spatula of solid sodium carbonate. The reaction mixture was stirred under nitrogen for 18 h then sodium triacetoxyborohydride (143 mg, 0.643 mmol) was added and stirred for 1 h. The reaction mixture was concentrated and purified to obtain the free base of the title compound as a pale oil (96 mg; 87%) after column chromatography (90:10:1:DCM:MeOH:NH4OH).

reactant | 1-{2-[(3S,4S)-3-(Aminomethyl)-4-hydroxy-1-pyrrolidinyl]ethyl}-7-(methyloxy)-2(1H)-quinolinone | 0.214 mmol, 68 mg | NC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O | C17H23N3O3
reactant | 7-chloro-3-oxo-3,4-dihydro-2H-pyrido[3,2-b][1,4]oxazine-6-carboxaldehyde | ClC1=CC=2OCC(NC2N=C1C=O)=O | C8H5ClN2O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium triacetoxyborohydride | 0.643 mmol, 143 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 1 ml | CO | CH4O
product | 7-chloro-6-({[((3S,4S)-4-hydroxy-1-{2-[7-(methyloxy)-2-oxo-1(2H)-quinolinyl]ethyl}-3-pyrrolidinyl)methyl]amino}methyl)-2H-pyrido[3,2-b][1,4]oxazin-3(4H)-one dihydrochloride | 96 mg, 87% | Cl.Cl.ClC1=CC=2OCC(NC2N=C1CNC[C@H]1CN(C[C@H]1O)CCN1C(C=CC2=CC=C(C=C12)OC)=O)=O | InChI=1S/C25H28ClN5O5.2ClH/c1-35-17-4-2-15-3-5-24(34)31(20(15)8-17)7-6-30-12-16(21(32)13-30)10-27-11-19-18(26)9-22-25(28-19)29-23(33)14-36-22;;/h2-5,8-9,16,21,27,32H,6-7,10-14H2,1H3,(H,28,29,33);2*1H/t16-,21+;;/m0../s1
